US04902338
To a stirred mixture of 4.4 g (0.014 mole) of 3-(4-chloro-2-fluoro-5-nitrophenyl)-1-(1-methylethyl)hydantoin in 70 mL of acetic acid and 10 mL of water was added slowly 4.5 g (0.083 mole) of iron powder. The reaction mixture was heated briefly at 50° C, then was cooled to room temperature and was stirred for 0.5 hour. The mixture was diluted with diethyl ether and was filtered through a pad of Celite® filter aid. The filter pad was rinsed with diethyl ether. The filtrate, containing the diethyl ether wash, was transferred to a separatory funnel and was washed with water and an aqueous dilute sodium bicarbonate solution. The organic phase was dried over anhydrous magnesium sulfate, filtered, and the filtrate evaporated under reduced pressure to give 3.0 g of 3-(5-amino-4-chloro-2-fluorophenyl)-1-(1-methylethyl)hydantoin.

reactant | 3-(4-chloro-2-fluoro-5-nitrophenyl)-1-(1-methylethyl)hydantoin | 0.014 mole, 4.4 g | ClC1=CC(=C(C=C1[N+](=O)[O-])N1C(N(CC1=O)C(C)C)=O)F | C12H11ClFN3O4
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | iron | 0.083 mole, 4.5 g | [Fe] | Fe
product | 3-(5-amino-4-chloro-2-fluorophenyl)-1-(1-methylethyl)hydantoin | 3.0 g | NC=1C(=CC(=C(C1)N1C(N(CC1=O)C(C)C)=O)F)Cl | C12H13ClFN3O2
